US07700782B2
i) Benzyl 3-chloro-3-oxopropyl(3,4-dichlorophenethyl)carbamate
3-((Benzyloxycarbonyl)(3,4-dichlorophenethyl)amino)propanoic acid (0.5 g), prepared according to the procedure of Example 1 step iv), but using 2,3-dichlorophenethylamine instead of phenethylamine, was dissolved in dichloromethane (10 mL) and treated with oxalyl chloride (0.132 mL) and DMF (0.05 mL). The reaction was stirred at room temperature until gas evolution ceased, and the solvent was removed in vacuo to give an oil which was used in step ii) directly.

reactant | 3-((Benzyloxycarbonyl)(3,4-dichlorophenethyl)amino)propanoic acid | 0.5 g | C(C1=CC=CC=C1)OC(=O)N(CCC(=O)O)CCC1=CC(=C(C=C1)Cl)Cl | C19H19Cl2NO4
reactant | 2,3-dichlorophenethylamine | ClC1=C(CCN)C=CC=C1Cl | C8H9Cl2N
reactant | oxalyl chloride | 0.132 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.05 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Benzyl 3-chloro-3-oxopropyl(3,4-dichlorophenethyl)carbamate | ClC(CCN(C(OCC1=CC=CC=C1)=O)CCC1=CC(=C(C=C1)Cl)Cl)=O | C19H18Cl3NO3
